US07691843B2
To a stirred solution of 3-dimethylthiocarbamyloxy-5-hydroxybenzoic acid methyl ester (2.37 g, impure) in DMF (30 mL) at room temperature was added K2CO3 (3.85 g, 27.9 mmol), followed by iodomethane (1.16 mL, 18.6 mmol). After stirring for 3.5 h at room temperature the reaction mixture was partitioned between ethyl ether (200 mL) and H2O (200 mL). The organic layer was washed with brine (100 mL), dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using 33% EtOAc in hexanes as an eluent to furnish 3-dimethylthiocarbamyloxy-5-methoxybenzoic acid methyl ester (1.30 g, 4.83 mmol).

reactant | 3-dimethylthiocarbamyloxy-5-hydroxybenzoic acid methyl ester | 2.37 g | COC(C1=CC(=CC(=C1)O)OC(N(C)C)=S)=O | C11H13NO4S
reactant | K2CO3 | 27.9 mmol, 3.85 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 18.6 mmol, 1.16 mL | IC | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-dimethylthiocarbamyloxy-5-methoxybenzoic acid methyl ester | 4.83 mmol, 1.30 g | COC(C1=CC(=CC(=C1)OC)OC(N(C)C)=S)=O | C12H15NO4S
